US05972976
(2) Synthesis of 2-[2-(4-pyridyl)ethenyl]aniline
In a mixture of concentrated hydrochloric acid (14 ml) and ethanol (14 ml) was dissolved 2.87 g of 2-[2-(4-pyridyl)ethenyl]-1-nitrobenzene. To this solution was added a solution of stannous chloride dihydrate (8.59 g) in ethanol (25 ml) gradually dropwise under ice-cooling and the mixture was stirred at room temperature for 5 hours. After the solvent was evaporated off under reduced pressure, the residue was made basic with 30% aqueous sodium hydroxide solution and extracted with chloroform. The extract was dehydrated over anhydrous magnesium sulfate and the solvent was evaporated off to provide 2.2 g of the title compound as yellow solid. This product was used as a starting material without purification.

reactant | hydrochloric acid | 14 ml | Cl | ClH
reactant | 2-[2-(4-pyridyl)ethenyl]-1-nitrobenzene | 2.87 g | N1=CC=C(C=C1)C=CC1=C(C=CC=C1)[N+](=O)[O-] | C13H10N2O2
solvent | ethanol | 25 ml | C(C)O | C2H6O
solvent | ethanol | 14 ml | C(C)O | C2H6O
product | 2-[2-(4-pyridyl)ethenyl]aniline | 2.2 g | N1=CC=C(C=C1)C=CC1=C(N)C=CC=C1 | C13H12N2
